US07468375B2
Step 1B: 4-Methyl-5-nitropyridin-2-yl trifluoromethanesulfonate:
To a stirred solution of the 4-methyl-5-nitropyridin-2-ol (5.00 g, 32 mmol) and triethylamine (9.0 mL, 87 mmol) in dichloromethane (150 mL) at 0° C. was added trifluoromethanesulfonic anhydride (7.3 mL, 43 mmol) dropwise and the reaction was stirred for 2 h. The reaction mixture was poured into cold saturated sodium bicarbonate solution and extracted 3× with dichloromethane. The combined organic extracts were dried over sodium sulfate, filtered and the solvent was removed under reduced pressure. The crude material was dissolved in ether and passed through a short column of silica gel using ether as eluent to provide the title compound (8.65 g, 94%) as a white solid. 1H NMR (CDCl3) δ ppm 9.00 (s, 1H), 7.17 (s, 1H), 2.73 (s, 3H).

reactant | 4-methyl-5-nitropyridin-2-ol | 32 mmol, 5.00 g | CC1=CC(=NC=C1[N+](=O)[O-])O | C6H6N2O3
reactant | triethylamine | 87 mmol, 9.0 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 43 mmol, 7.3 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 4-Methyl-5-nitropyridin-2-yl trifluoromethanesulfonate | 8.65 g, 94% | FC(S(=O)(=O)OC1=NC=C(C(=C1)C)[N+](=O)[O-])(F)F | C7H5F3N2O5S
